datasets/10k_Mayr_OG.csv
SMILES Labelled
"C[Ge:63](C)(C)[CH2:62][CH:11]([H:10])[CH2:72][Ge:73](C)(C)C.[C+:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1>>C[Ge:63](C)(C)[CH2:62][CH+:11][CH2:72][Ge:73](C)(C)C.[H:10][C:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1 10,11=10,20"
"C1=CC=C([C:22]([CH:21]=[CH2:20])=[O:23])C=C1.Cl[C:63]1=[CH:64][CH:73]=[CH:72][N+:61](/[CH:10]=[C:11](/C2=CC=CC=C2)[O-:12])=[CH:62]1>>Cl[C:63]1=[CH:64][CH:73]=[CH:72][N+:61]([CH:10]([C:11](C2=CC=CC=C2)=[O:12])[CH2:20][CH:21]=[C:22](C2=CC=CC=C2)[O-:23])=[CH:62]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
C1=C[C:31]2=[C:32](C=C1)[CH:33]=[CH:34][C:35]1=[C:36](C=CC=C1)[CH+:20]2.CC[O:83][P:72]([CH-:10][C:61]#[N:62])(=[O:73])[O:93]CC>>CC[O:83][P:72]([CH:10]([CH:20]1[C:31]2=[C:32](C=CC=C2)[CH:33]=[CH:34][C:35]2=[C:36]1C=CC=C2)[C:61]#[N:62])(=[O:73])[O:93]CC 10=20
C1=CC=C([C:42](=[CH:41][CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:53]2=[CH:54][CH:55]=[CH:56][CH:57]=[CH:58]2)C=C1.C[S+](C)[CH-:10]C1=CC=C([N+](=O)[O-])C=C1>>C[S+](C)[CH:10](C1=CC=C([N+](=O)[O-])C=C1)[CH:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[CH:41]=[C:42](C1=CC=CC=C1)[C:53]1=[CH:54][CH:55]=[CH:56][CH:57]=[CH:58]1 10=20
"C1CC[N:12]([C:11]2=[CH:10]CCCC2)CC1.Cl[B-:33](Cl)(Cl)[O+:21]=[CH:20][C:41]1=[CH:42][CH:43]=[C:44](Cl)[CH:45]=[CH:46]1>>Cl[B-:33](Cl)(Cl)[O:21][CH:20]([CH:10]1CCCC[C:11]1=[N+:12]1CCCCC1)[C:41]1=[CH:42][CH:43]=[C:44](Cl)[CH:45]=[CH:46]1 10,11=10,20;12=11,12;20,21=21"
"CC1(C)[O:72][C:61](=[O:62])[C:10](CC2=CC=CC=C2)=[C:11]([O-:12])[O:82]1.F[C:31]1=[C:32](F)[C:33](=[O:34])[C:42](F)=[C:41](F)[C:20]1=[O:21]>>CC1(C)[O:72][C:61](=[O:62])[C:10](CC2=CC=CC=C2)([C:20]2([O-:21])[C:31](F)=[C:32](F)[C:33](=[O:34])[C:42](F)=[C:41]2F)[C:11](=[O:12])[O:82]1 10,11=10,20;12=11,12;20,21=21"
"COC1=CC=CC(OC)=C1[N+]1=C([C:22](/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)=[O:23])N(C)C=C1.C[S+:61](C)/[CH:10]=[C:11](/C1=CC=C(Br)C=C1)[O-:12]>>COC1=CC=CC(OC)=C1[N+]1=C([C:22](=[CH:21][CH:20]([CH:10]([C:11](C2=CC=C(Br)C=C2)=[O:12])[S+:61](C)C)[C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[O-:23])N(C)C=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC(C)(C1=C(I)C=CC=C1)[O:21][S:20]C(F)(F)F.C[N:82]1[C:11]([O-:12])=[CH:10][C:61](=[O:62])[N:82](C)[C:73]1=[O:74]>>CC(C)(C1=C(I)C=CC=C1)[O-:21].C[N:82]1[C:11](=[O:12])[CH:10]([S:20]C(F)(F)F)[C:61](=[O:62])[N:82](C)[C:73]1=[O:74] 10,11=10,20;12=11,12;20,21=21"
"C1=C[C:63]2=[C:64](C=C1)[C:74]1=[C:73](C=CC=C1)[N:12]2[CH:11]=[CH2:10].Cl[C:21]1([Cl:20])[C:22](=[O:23])[C:35]2=[C:34](C=CC=N2)[C:33](Cl)=[CH:32]1>>C1=C[C:63]2=[C:64](C=C1)[C:74]1=[C:73](C=CC=C1)[N+:12]2=[CH:11][CH2:10][Cl:20].Cl[C:21]1=[C:22]([O-:23])[C:35]2=[C:34](C=CC=N2)[C:33](Cl)=[CH:32]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC1=CC=C([B-:11](C2=CC=C(C)O2)(C2=CC=C(C)O2)[C:10]2=CC=C(C)O2)O1.F[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](F)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CC1=CC=C([B:11](C2=CC=C(C)O2)C2=CC=C(C)O2)O1.CC1=CC=[C:10]([C:20]([C:31]2=[CH:32][CH:33]=[C:34](F)[CH:35]=[CH:36]2)([C:41]2=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](F)[CH:55]=[CH:56]2)O1 10,11=10,20"
"CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[CH:22]=[C:23](C(C)(C)C)[C:24](=[O:25])[C:33](C(C)(C)C)=[CH:32]2)[CH:46]=[CH:45]1.[C-:10]([C:61]#[N:62])([C:71]1=[CH:72][CH:73]=[CH:74][CH:85]=[CH:84]1)[C:91]#[N:92]>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([C:10]([C:61]#[N:62])([C:71]2=[CH:72][CH:73]=[CH:74][CH:85]=[CH:84]2)[C:91]#[N:92])[C:21]2=[CH:22][C:23](C(C)(C)C)=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32]2)[CH:46]=[CH:45]1 10=20;20,21=21,22;22,23=23,24;24,25=25"
"C1CC[N:14]([C:13]2=[CH:12][CH:11]=[N:10][CH:61]=[CH:62]2)C1.FC(F)[S:20][N:21]1[C:22](=[O:23])C2=C(C=CC=C2)[C:32]1=[O:33]>>C1=CC2=C(C=C1)[C:32](=[O:33])[N:21]=[C:22]2[O-:23].FC(F)[S:20][N:10]1[CH:11]=[CH:12][C:13](=[N+:14]2CCCC2)[CH:62]=[CH:61]1 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23"
"C/[C:11](=[CH:10]/[P+:61](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[O-:12].CC1(C)[O:33][C:31](=[O:32])[C:21](=[CH:20][C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[C:22](=[O:23])[O:39]1>>CC1(C)[O:33][C:31](=[O:32])[C:21]([CH:20]([CH:10]([C:11](C)=[O:12])[P+:61](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)=[C:22]([O-:23])[O:39]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C[C:11]([H:10])([CH:12]=[CH2:13])[CH:72]=[CH2:73].O=[N+]([O-])[C:33]1=[CH:32][C:21]([N+:22]([O-])=[O:23])=[CH:20]N2N=N[N:35]=[C:34]21>>C[C:11](=[CH:12][CH2+:13])[CH:72]=[CH2:73].O=[N+]([O-])[C:33]1=[CH:32][C:21](=[N+:22]([O-])[O-:23])[CH:20]([H:10])N2N=N[N:35]=[C:34]21 10,11=10,20;12,13=11,12;20,21=21,22;22,23=23"
